US04518596
8-(4-Chlorophenyl-thio)-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 1 from 2-chloro-8-(4-chlorophenyl-thio)-4-morpholino-pyrimido-[5,4-d]-pyrimidine (m.p.: 208°-210° C.) and piperazine.

reactant | 2-chloro-8-(4-chlorophenyl-thio)-4-morpholino-pyrimido-[5,4-d]-pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)SC2=CC=C(C=C2)Cl)N2CCOCC2 | C16H13Cl2N5OS
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-(4-Chlorophenyl-thio)-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine | ClC1=CC=C(C=C1)SC1=NC=NC2=C1N=C(N=C2N2CCOCC2)N2CCNCC2 | C20H22ClN7OS
